2107-01-30 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2107-1-29**] 01:45 PM
 MULTI LUMEN - START [**2107-1-29**] 01:46 PM
 EKG - At [**2107-1-29**] 02:13 PM
 ULTRASOUND - At [**2107-1-29**] 06:16 PM
   Still on Levophed, 0.15
   Nausea with dry heaves overnight after Percocet
   This am, chest pain [**2-11**], better than yesterday. Pain increased with
   deep breathing and coughing. Breathing mildly better.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-1-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-30**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 108 (103 - 121) bpm
   BP: 80/55(64) {80/55(64) - 118/72(85)} mmHg
   RR: 29 (21 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,372 mL
                                                                    277 mL
   PO:
             TF:
   IVF:
                                                                  3,372 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    248 mL
   Urine:
                                                                    595 mL
                                                                    218 mL
   NG:
   30 mL
   Stool:
   Drains:
   Balance:
                                                                  2,777 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.34/33/320/12/-6
   Physical Examination
   General Appearance: Well nourished, laying in bed, slightly
   uncomfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Tachypneic, increased work of breathing,
   (Expansion: Symmetric), (Percussion: No(t) Resonant : ), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: No c/c/e. DP/PT 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, , Oriented (to) place,
   date, year, not month ([**Month (only) 1780**]), MAE
   Labs / Radiology
   257 K/uL
   9.2 g/dL
   152 mg/dL
   1.2 mg/dL
   12 mEq/L
   5.6 mEq/L
   23 mg/dL
   112 mEq/L
   137 mEq/L
   27.0 %
   13.8 K/uL
        [image002.jpg]
                            [**2107-1-29**]  01:50 PM
                            [**2107-1-29**]  01:54 PM
                            [**2107-1-29**]  08:36 PM
                            [**2107-1-30**]  05:16 AM
   WBC
   13.8
   Hct
   27.0
   Plt
   257
   Cr
   1.2
   TropT
   0.42
   0.24
   TCO2
   19
   Glucose
   152
   Other labs: PT / PTT / INR:20.6/100.1/1.9, CK / CKMB /
   Troponin-T:160//0.24, ALT / AST:2547/4185, Alk Phos / T Bili:99/0.4,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:2.6 mmol/L, Albumin:3.1 g/dL, LDH:5886 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.2 mg/dL
   Assessment and Plan
   In summary, Ms. [**Known lastname 3255**] is a 71 year old female with DM2, HTN, GERD,
   admitted with b/l PE in setting of  having bowel resection and vaginal
   hysterectomy one month ago.
   1.       PE.  Patient has large bilateral central PEs.  Currently has
   weaned down from 6LNC to 2L NC and satting well.  She is persistently
   hypotensive requiring 0.15 levophed to maintain her pressure and BPs
   improved this am.  Evidence of RV strain on EKG with elevated BNP,
   troponins, and noted to have dilated RV on CTA of the chest with RV to
   LVrationm approximately 2.  Given recent surgery and age, femoral line,
   and high risk  of bleeding, will defer thrombolytics for now since
   pressor and O2 requirements improved this am. If unstable, pressor
   requirement increased or hypoxia worsens will readdress need for
   thrombolytics but would like to avoid if possible. Gyn and [**Doctor First Name 91**] okay
   with lytics if necessary.  LENIs negative for DVT.  Per patient, up to
   date on colonoscopy and mammogram and there is no personal or family
   history of malignancy. PE most likely secondary to post-op setting and
   decreased ambulation, immobility. Elevated Lfts troponin, BNP
   concerning.
   -          Heparin drip with goal of 60-90
   -          Tylenol for chest pain
   -          wean O2 if able
   -          continue to trend cardiac enzymes
   -          close monitoring with consideration of thrombolytics if
   decompensates
   -          No filter since no LE DVT seen
   -          Echo to eval for RV thrombus since would be indicator for
   thrombolytics
   -
   2.       Hypotension.  Patient on numerous antihypertensive at home,
   but hypotensive here and requiring levophed.  Hypotension likely
   secondary to large PE, Rv strain. Also appears dry on exam, c/o thirst.
   Need to be careful with fluids to not overload RV but does need preload
   as well. Hypotension improved this am, so will attempt to wean
   pressors, give fluids.
   - NS bolus 1L
   -          levophed to maintain MAPs>60
   -          monitor BP
   -          hold antihypertensives
   -          consider thrombolysis if unstable, increased pressor
   requirement
          3 .   Elevated LFTs: Transaminitis likely secondary to shock
   liver from hypotension and pressor requirement. Unclear if hypotensive
   prior to arrival as well since had chest pain overnight prior to
   admission and presentation.
                - Follow. Maintain perfusion pressure
   4.       DM.  On metformin at home.
   -          ISS
   -          Follow fingersticks
   5.       GERD.
   -          IV PPI
   6.       CRI.  Likely secondary to longstanding hypertension requiring
   5 home antihypertensives.  Cr at baseline.
   -          renally dose all meds
   -
   PPx: therapeutic heparin
   CODE: FULL, confirmed with patient and husband
   [**Name (NI) **]: [**Name (NI) **] and husband
   ICU consent signed
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Multi Lumen - [**2107-1-29**] 01:46 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-31 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2107-1-30**] 01:39 PM
   am  K++ 5.6
 INVASIVE VENTILATION - START [**2107-1-30**] 05:27 PM
 TRANSTHORACIC ECHO - At [**2107-1-30**] 06:54 PM
   - 4:30pm pt appeared tachypnic, increased work-of breathing leading to
   CXR and Blood Gas
   - Subsequently Intubated for airway protection
   - Acutely bradycardic and hypotensive
>code blue called
 PEA.
   - pulse within seconds after 1 amp bicarb and chest compressions.
   -  TPA ordered from pharmacy.  Post intubation  abg ph 6.9.
   - Levo maxed and additional pressor support with neo then dopa.
   - Treated for hyperk and continued to administer bicarb for known
   severe acidosis.  - Cardiology paged for bedside echo performed while
   awaiting TPA with prelim findings c/w RV strain, and [**Last Name (un) 3596**] sign
   with septum impacting LV. TPA arrived and hung (PE dosing, as no longer
   in cardiac arrest
   - tPA over two hours and placed back on Heparin gtt
   - Initiated on 2nd pressor
   - Started on D10 Drip for hyperglycemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 3.3 mcg/Kg/min
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Insulin - Regular - [**2107-1-30**] 06:30 PM
   Dextrose 50% - [**2107-1-30**] 06:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-31**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 105 (72 - 157) bpm
   BP: 148/89(110) {51/29(35) - 168/92(114)} mmHg
   RR: 32 (20 - 43) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 70 kg
             Total In:
                                                                  8,428 mL
                                                                  1,872 mL
   PO:
             TF:
   IVF:
                                                                  8,418 mL
                                                                  1,872 mL
   Blood products:
   Total out:
                                                                    601 mL
                                                                     37 mL
   Urine:
                                                                    541 mL
                                                                     37 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  7,827 mL
                                                                  1,839 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/22/170/15/-4
   Ve: 15.6 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   153 K/uL
   8.0 g/dL
   381 mg/dL
   2.1 mg/dL
   15 mEq/L
   4.5 mEq/L
   30 mg/dL
   107 mEq/L
   138 mEq/L
   23.1 %
   11.6 K/uL
        [image002.jpg]
                            [**2107-1-30**]  06:11 PM
                            [**2107-1-30**]  06:26 PM
                            [**2107-1-30**]  06:41 PM
                            [**2107-1-30**]  07:29 PM
                            [**2107-1-30**]  07:41 PM
                            [**2107-1-30**]  09:08 PM
                            [**2107-1-31**]  12:17 AM
                            [**2107-1-31**]  12:46 AM
                            [**2107-1-31**]  05:22 AM
                            [**2107-1-31**]  05:43 AM
   WBC
   9.2
   11.8
   11.6
   Hct
   22.6
   24.2
   24.0
   23.1
   Plt
   166
   143
   153
   Cr
   1.6
   1.7
   1.9
   2.1
   TropT
   0.44
   0.62
   TCO2
   7
   18
   13
   11
   11
   17
   Glucose
   147
   134
   315
   282
   402
   381
   Other labs: PT / PTT / INR:36.5/72.8/3.9, CK / CKMB /
   Troponin-T:662/12/0.62, ALT / AST:5025/[**Numeric Identifier 3600**], Alk Phos / T Bili:78/0.8,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:7.7 mmol/L, Albumin:3.1 g/dL, LDH:[**Numeric Identifier 3601**] IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Multi Lumen - [**2107-1-29**] 01:46 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-31 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2107-1-30**] 01:39 PM
   am  K++ 5.6
 INVASIVE VENTILATION - START [**2107-1-30**] 05:27 PM
 TRANSTHORACIC ECHO - At [**2107-1-30**] 06:54 PM
   - 4:30pm pt appeared tachypnic, increased work-of breathing leading to
   CXR and Blood Gas
   - Subsequently Intubated for airway protection
   - PEA arrest and resuscitated
   - tPA over two hours and placed back on Heparin gtt
   - Initiated on 2nd pressor
   - Started on D10 Drip for hyperglycemia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 3.3 mcg/Kg/min
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Insulin - Regular - [**2107-1-30**] 06:30 PM
   Dextrose 50% - [**2107-1-30**] 06:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-31**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 105 (72 - 157) bpm
   BP: 148/89(110) {51/29(35) - 168/92(114)} mmHg
   RR: 32 (20 - 43) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 70 kg
             Total In:
                                                                  8,428 mL
                                                                  1,900 mL
   PO:
             TF:
   IVF:
                                                                  8,418 mL
                                                                  1,900 mL
   Blood products:
   Total out:
                                                                    601 mL
                                                                     37 mL
   Urine:
                                                                    541 mL
                                                                     37 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  7,827 mL
                                                                  1,863 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/22/170/15/-4
   Ve: 15.6 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   153 K/uL
   8.0 g/dL
   381 mg/dL
   2.1 mg/dL
   15 mEq/L
   4.5 mEq/L
   30 mg/dL
   107 mEq/L
   138 mEq/L
   23.1 %
   11.6 K/uL
        [image002.jpg]
                            [**2107-1-30**]  06:11 PM
                            [**2107-1-30**]  06:26 PM
                            [**2107-1-30**]  06:41 PM
                            [**2107-1-30**]  07:29 PM
                            [**2107-1-30**]  07:41 PM
                            [**2107-1-30**]  09:08 PM
                            [**2107-1-31**]  12:17 AM
                            [**2107-1-31**]  12:46 AM
                            [**2107-1-31**]  05:22 AM
                            [**2107-1-31**]  05:43 AM
   WBC
   9.2
   11.8
   11.6
   Hct
   22.6
   24.2
   24.0
   23.1
   Plt
   166
   143
   153
   Cr
   1.6
   1.7
   1.9
   2.1
   TropT
   0.44
   0.62
   0.81
   TCO2
   7
   18
   13
   11
   11
   17
   Glucose
   147
   134
   315
   282
   402
   381
   Other labs: PT / PTT / INR:36.5/72.8/3.9, CK / CKMB /
   Troponin-T:662/15/0.81, ALT / AST:5025/[**Numeric Identifier 3600**], Alk Phos / T Bili:78/0.8,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:7.7 mmol/L, Albumin:3.1 g/dL, LDH:[**Numeric Identifier 3601**] IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Multi Lumen - [**2107-1-29**] 01:46 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-01-31 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   4:30PM:
   -                      -Increased tachypnia complaining of fatigue,
   ABG  7.16/16/108 (4L NC).  Tachy to 130
s with BP
s 100 systolic.
   -                      -Subsequently Intubated for increased
   work-of-breathing.
   Approx 6:20pm:
   - Acutely bradycardic and hypotensive, code called for PEA.
   - Return of pulse within seconds after 1 amp bicarb and chest
   compressions.
   - TPA ordered from pharmacy.  Abg then returned with ph 6.9.
   - Levo maxed and Neo and Dopa added.
   - Treated for hyperkalemia and continued to administer bicarb for known
   severe acidosis.
   - Cardiology fellow performed bedside echo performed prior to TPA with
   findings c/w RV strain, and
[**Last Name (un) 3596**] Sign
 with septum impacting
   LV.
   - TPA arrived and hung
   Overnight:
   - Ionized calcium -0.93,  Lactic acid  10.2. ,  Hyperglycemic
   300-400
s, UOP 10-15cc/hr
   - Weaned off Dopamine
   - Weaned off Levophed at 00:00
   - Initiated Insulin Drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 2.8 mcg/Kg/min
   Insulin - Regular - 12.5 units/hour
   Other ICU medications:
   Insulin - Regular - [**2107-1-30**] 06:30 PM
   Dextrose 50% - [**2107-1-30**] 06:47 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2107-1-31**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 105 (72 - 157) bpm
   BP: 148/89(110) {51/29(35) - 168/92(114)} mmHg
   RR: 32 (20 - 43) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 70 kg
             Total In:
                                                                  8,428 mL
                                                                  1,999 mL
   PO:
             TF:
   IVF:
                                                                  8,418 mL
                                                                  1,999 mL
   Blood products:
   Total out:
                                                                    601 mL
                                                                     41 mL
   Urine:
                                                                    541 mL
                                                                     41 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  7,827 mL
                                                                  1,958 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/22/170/15/-4  (5:45am)
   Ve: 15.6 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Intubated, Sedation, Arousable and Responding to
   commands
   Eyes / Conjunctiva: [**Name (NI) **], [**Name (NI) **] (pt able to track appropriately)
   Head, Ears, Nose, Throat: Normocephalic, ET in place
   Cardiovascular: S1 S2 tachycardic, No appreciable loud P2, no
   appreciable RV heave
   Peripheral Vascular: Warm well perfused
   Respiratory / Chest: Clear anteriorly, coarse BS bilateral,
   posteio-laterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: No c/c/e. DP/PT 2+
   Neurologic: Attentive, Moving all extremities to command. Able to
   squeeze hands. Able to track either her eyes.
   Labs / Radiology
   153 K/uL
   8.0 g/dL
   381 mg/dL
   2.1 mg/dL
   15 mEq/L
   4.5 mEq/L
   30 mg/dL
   107 mEq/L
   138 mEq/L
   23.1 %
   11.6 K/uL
        [image002.jpg]  ALT 5200 AST [**Numeric Identifier 3602**] LDH [**Numeric Identifier 3603**] AP 78 TB 0.8
                            [**2107-1-30**]  06:11 PM
                            [**2107-1-30**]  06:26 PM
                            [**2107-1-30**]  06:41 PM
                            [**2107-1-30**]  07:29 PM
                            [**2107-1-30**]  07:41 PM
                            [**2107-1-30**]  09:08 PM
                            [**2107-1-31**]  12:17 AM
                            [**2107-1-31**]  12:46 AM
                            [**2107-1-31**]  05:22 AM
                            [**2107-1-31**]  05:43 AM
   WBC
   9.2
   11.8
   11.6
   Hct
   22.6
   24.2
   24.0
   23.1
   Plt
   166
   143
   153
   Cr
   1.6
   1.7
   1.9
   2.1
   TropT
   0.44
   0.62
   0.81
   TCO2
   7
   18
   13
   11
   11
   17
   Glucose
   147
   134
   315
   282
   402
   381
   Other labs: PT / PTT / INR:36.5/72.8/3.9, CK / CKMB /
   Troponin-T:662/15/0.81, ALT / AST:5200/[**Numeric Identifier 3602**], Alk Phos / T Bili:78/0.8,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:7.7 mmol/L, Albumin:3.1 g/dL, LDH:[**Numeric Identifier 3603**] IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   71 year old female with DM2, HTN, GERD, admitted with b/l PE in setting
   of  having bowel resection and vaginal hysterectomy
   now s/p 1 day s/p PEA arrest.
   # Hemodyanamics 1 Day s/p PEA Arrest: Etiology of arrest was likely
   secondary to PE, however was also in the setting of worsening gap
   metabolic acidosis likely secondary to both lactic acidosis, less
   likely ketoacidosis (although BG in 300
s) and/or uremia (given pt
   essentially had GFR of 0 given no UOP). Following thrombolysis, pt able
   to be weaned from 3 pressors down to Neo.
   -          Cont to wean pressors as BP tolearated with goal SBP
   90-150s.
   -          Cont to trend Lactate, Cr, LFTs, UOP as means to assess
   end-organ perfusion. Lactate is decreasing.
   -          Formal TTE today to assess RV function. Also in setting of
   troponin bump will assess LVEF
   # Saddle Pulmonary Emboli: Now s/p lysis. Pt
s PTT remains > 60.
   -          Will restart Heparin gtt once PTT < 60
   -          TTE today to assess RV
   # Acute Respiratory Failure: Was secondary to increased work of
   breathing in setting of gap metabolic acidosis and pt unable to
   compensate (pt
s HCO3  was down to 7).  Acid-Base Status now much
   improved following presumed lysis of clot and decrease in dead-space
   (given pt
s sudden pH normalization).
   -          Transition from AC to PS this AM as tolerated and re-assess
   this PM
   # ARF: Likely ATN secondary to hypoperfusion. GFR essentially zero
   given increase in Cr over past day and now no urine output. Pt now up
   13L since admission.
   -          No current indications for dialsysi given Acid-Base Status
   has corrected, K normal, Not yet fluid overloaded, No signs of uremia
   -          Will consider renal consult later today if pts BP still
   requiring pressers, and pt not urinating, for potential CVVH
   # Shock Liver: Likely secondary to hypoperfusion.
   -          No interventions indicated, will continue to trend
   # Coagulopathy: INR continues to rise. Likely [**3-6**] to shock liver. No
   current indications for Vitamin K.
   -          Continue to trend
   # Troponin Bump: Likely secondary to demand ischemia in settting of
   hypotension, also increased RV strain. Now in the setting of ARF so
   will likely remain elevated.
   -          No current interventions needed
   -          TTE Today
   -          Pt
s PTT remains >60
   # Hyperglycemia: FS 300-400
s overnight. Now on D10 drip at 50.
   -          Will decrease both dose and rate for better FS control.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin Drip
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Multi Lumen - [**2107-1-29**] 01:46 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Prophylaxis:
   DVT: Supratherapeutic INR
   Stress ulcer:
   VAP:  Bundle
   Communication:  Husband
   [**Name (NI) 156**] status: Full code
   Disposition: MICU (Boarding in SICU)

2107-01-31 08:35:00 Physician Attending Progress Note
Chief Complaint: massive PE, PEA arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2107-1-30**] 01:39 PM
   am  K++ 5.6
 INVASIVE VENTILATION - START [**2107-1-30**] 05:27 PM
 TRANSTHORACIC ECHO - At [**2107-1-30**] 06:54 PM
   As noted in events yesterday pt with progressive shock due to massive
   PE - lytics given with improved hemodynamics.
   Started on insulin drip
   UOP dropped to near zero.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 12.5 units/hour
   Other ICU medications:
   Insulin - Regular - [**2107-1-30**] 06:30 PM
   Dextrose 50% - [**2107-1-30**] 06:47 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-1-31**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 110 (72 - 157) bpm
   BP: 126/76(93) {51/29(35) - 168/92(114)} mmHg
   RR: 16 (16 - 43) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 70 kg
             Total In:
                                                                  8,423 mL
                                                                  2,166 mL
   PO:
             TF:
   IVF:
                                                                  8,413 mL
                                                                  2,166 mL
   Blood products:
   Total out:
                                                                    601 mL
                                                                     45 mL
   Urine:
                                                                    541 mL
                                                                     45 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  7,822 mL
                                                                  2,121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/22/170/15/-4
   Ve: 15.4 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Gen: intubated and lightly sedated
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Loud)
   Respiratory / Chest: (Breath Sounds: Diminished at bases,
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   153 K/uL
   381 mg/dL
   2.1 mg/dL
   15 mEq/L
   4.5 mEq/L
   30 mg/dL
   107 mEq/L
   138 mEq/L
   23.1 %
   11.6 K/uL
        [image002.jpg]
                            [**2107-1-30**]  06:11 PM
                            [**2107-1-30**]  06:26 PM
                            [**2107-1-30**]  06:41 PM
                            [**2107-1-30**]  07:29 PM
                            [**2107-1-30**]  07:41 PM
                            [**2107-1-30**]  09:08 PM
                            [**2107-1-31**]  12:17 AM
                            [**2107-1-31**]  12:46 AM
                            [**2107-1-31**]  05:22 AM
                            [**2107-1-31**]  05:43 AM
   WBC
   9.2
   11.8
   11.6
   Hct
   22.6
   24.2
   24.0
   23.1
   Plt
   166
   143
   153
   Cr
   1.6
   1.7
   1.9
   2.1
   TropT
   0.44
   0.62
   0.81
   TCO2
   7
   18
   13
   11
   11
   17
   Glucose
   147
   134
   315
   282
   402
   381
   Other labs: PT / PTT / INR:36.5/72.8/3.9, CK / CKMB /
   Troponin-T:662/15/0.81, ALT / AST:5200/[**Numeric Identifier 3602**], Alk Phos / T Bili:78/0.8,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:7.7 mmol/L, Albumin:3.1 g/dL, LDH:[**Numeric Identifier 3603**] IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   1.       Shock: in setting of massive PE s/p lysis
   At present, her hemodynamics are stable allowing us to wean her
   pressors
 suggesting that she has improved RV outflow. We will try to
   get Neosynephrine off, repeat Echo to eval extent of RV overload bowing
   into LV as potential confounder of hemodynamic compromise. She is quite
   volume overloaded and no longer urinating which will make possibility
   of dialysis to help manage her volume status an issue to contend with
   in the next 12-24 hours.
   2.       PE: s/p lytics, restart heparin drip, follow up Echo
   3.       Resp Failure: s/p intubation for profound shock and acidosis.
   Currently with sig improved dead space s/p lytics.
   4.       ARF: dense ARF in setting of severe hypoperfusion
   5.       Transaminitis: in setting of profound hypoperfusion
 at this
   point we are awaiting
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: restart
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Multi Lumen - [**2107-1-29**] 01:46 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Prophylaxis:
   DVT: systemic anticoag.
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Communication:  with husband and family
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2107-02-01 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2107-1-31**] 10:06 AM
   - Attempted to wean off phenylephrine and started levophed for better
   chronotropic assistance, however patient became tachycardic with
   levophed, remained on low doses of both
   - Pt remains anuric
   - Restarted Insulin SS given hypoglycemia with insulin drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Phenylephrine - 1 mcg/Kg/min
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Dextrose 50% - [**2107-1-31**] 05:05 PM
   Pantoprazole (Protonix) - [**2107-1-31**] 09:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-1**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 115 (99 - 115) bpm
   BP: 121/64(81) {92/57(71) - 135/76(93)} mmHg
   RR: 0 (0 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 70 kg
             Total In:
                                                                  4,684 mL
                                                                    747 mL
   PO:
             TF:
   IVF:
                                                                  4,376 mL
                                                                    747 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                     59 mL
                                                                      0 mL
   Urine:
                                                                     59 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,625 mL
                                                                    747 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 439 (383 - 482) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.38/33/104/17/-4
   Ve: 9.4 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Intubated, Sedated, Arousable, not responding to
   commands
   Eyes / Conjunctiva: PERRL, pinpoint
   Head, Ears, Nose, Throat: Normocephalic, ET in place
   Cardiovascular: S1 S2 tachycardic, Loud P2 with RV heave
   Peripheral Vascular: Warm well perfused
   Respiratory / Chest: Clear anteriorly, coarse BS bilateral, postei
   ro-laterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended.
   Ostomy LLQ
   Extremities: 1+ edema. No c/c. DP/PT 2+
   Neurologic: Not following commands initially but was later in am.
   Labs / Radiology
   156 K/uL
   9.2 g/dL
   160 mg/dL
   3.1 mg/dL
   17 mEq/L
   4.5 mEq/L
   33 mg/dL
   106 mEq/L
   136 mEq/L
   25.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2107-1-31**]  08:35 AM
                            [**2107-1-31**]  01:03 PM
                            [**2107-1-31**]  01:14 PM
                            [**2107-1-31**]  02:02 PM
                            [**2107-1-31**]  02:45 PM
                            [**2107-1-31**]  07:06 PM
                            [**2107-1-31**]  08:36 PM
                            [**2107-1-31**]  10:11 PM
                            [**2107-2-1**]  01:37 AM
                            [**2107-2-1**]  06:18 AM
   WBC
   11.5
   11.6
   11.6
   Hct
   26.0
   28.1
   27.8
   25.7
   Plt
   153
   150
   156
   Cr
   2.4
   2.4
   3.1
   TropT
   0.78
   TCO2
   20
   22
   20
   19
   20
   Glucose
   261
   106
   78
   110
   160
   Other labs: PT / PTT / INR:33.8/136.9/3.5, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:4430/4777, Alk Phos / T Bili:99/1.9,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.1 g/dL, LDH:2980 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.6 mg/dL
   Trends
   Cr 3.1<-2.4  WBC stable HCt 25.7<-27.8
   ALT 4430<-5200
   AST 4777<-[**Numeric Identifier 3602**]
   LDH 2900<-[**Numeric Identifier 3628**]
   Micro: Sputum cx no growth, blood cx no growth
   Imaging
   CXR: Obscuring Right and left HD. ETt 3cm above carina
   Assessment and Plan
   71 year old female with DM2, HTN, GERD, admitted with b/l PE in setting
   of  having bowel resection and vaginal hysterectomy
   now s/p 1 day s/p PEA arrest.
   # s/p PEA Arrest: Etiology of arrest was likely secondary to bilateral
   PE, however was also in the setting of worsening gap metabolic acidosis
   likely secondary to both lactic acidosis and/or uremia (given pt
   essentially had GFR of 0 given no UOP). Following thrombolysis, pt able
   to be weaned from 3 pressors down to Neo and levophed.
   -          Cont to wean pressors as BP tolerated with goal SBP 90-150s.
   -          Cont to trend Lactate, Cr, LFTs, UOP as means to assess
   end-organ perfusion. Lactate and LFTs decreasing.
   -          Will likely need CVVH
   # Saddle Pulmonary Emboli: Now s/p lysis on restarted heparin gtt. Pt
   PTT remains > 60.
   -          Continue heparin gtt goal PTT 60-80
   # Acute Respiratory Failure: Was secondary to increased work of
   breathing in setting of gap metabolic acidosis and pt unable to
   compensate (pt
s HCO3  was down to 7).  Acid-Base Status now much
   improved following presumed lysis of clot and decrease in dead-space
   (given pt
s sudden pH normalization).
   -          Continue PS as tolerated
   # ARF: Likely ATN secondary to hypoperfusion and decreased forward
   flow. GFR essentially zero given increase in Cr over past day and now
   no urine output. Pt now up 13L since admission. Pt anuric with volume
   overload needs improved volume status for hemodynamics.
   -          Renal consult for CVVH
   -          f/u renal recs
   # Shock Liver: Likely secondary to hypoperfusion, improving.
   -          No interventions indicated, will continue to trend
   # Coagulopathy: INR continues to rise. Likely [**3-6**] to shock liver. No
   current indications for Vitamin K.
   -          Continue to trend
   # Troponin Bump: Likely secondary to demand ischemia in settting of
   hypotension, also increased RV strain. Now in the setting of ARF so
   will likely remain elevated.
   -          No current interventions needed
   # Hypoglycvemia: Pt had hyperglycemia so [**First Name9 (NamePattern2) 3630**] [**Male First Name (un) **] insulin gtt thwen
   with hypoglycemia likely from liver disease so changed to sliding
   scale.
   -          Insulin sliding scale.
   # Low grade fever: Pt with low grade fevers. Possible sources include
   line (fem line), urine (has foley), superimposed PNA, possible
   aspiration during arrest.
   -          check u/a and cx
   -          consider resite fem line
   -          CIS
   # FEN: Not on TFs. Will start today. Replete lytes prn and recheck in
   pm
   #PPX: Anticoagulated, PPI
   #Code: Full. Communication with husband
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Multi Lumen - [**2107-1-29**] 01:46 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-02-01 08:36:00 Physician Attending Progress Note
Chief Complaint: massive PE s/p lytics, dense ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2107-1-31**] 10:06 AM
   Anuric
   Unable to wean Neo and started on low dose levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Phenylephrine - 1 mcg/Kg/min
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Dextrose 50% - [**2107-1-31**] 05:05 PM
   Pantoprazole (Protonix) - [**2107-1-31**] 09:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2107-2-1**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 115 (99 - 115) bpm
   BP: 121/64(81) {92/57(71) - 135/75(90)} mmHg
   RR: 0 (0 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 70 kg
             Total In:
                                                                  4,684 mL
                                                                    877 mL
   PO:
             TF:
   IVF:
                                                                  4,376 mL
                                                                    877 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                     59 mL
                                                                     10 mL
   Urine:
                                                                     59 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,625 mL
                                                                    867 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (383 - 482) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.38/33/104/17/-4
   Ve: 9.1 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Gen: intubated and sedated
   HEENT ETT and NGT
   CV: tachy RR
   Chest: decreased BS at bases
   Abd: ovbese soft NT + BS stoma pink
   Ext:2+ edema
   Neuro: wakes to voice
   Labs / Radiology
   9.2 g/dL
   156 K/uL
   160 mg/dL
   3.1 mg/dL
   17 mEq/L
   4.5 mEq/L
   33 mg/dL
   106 mEq/L
   136 mEq/L
   25.7 %
   11.6 K/uL
        [image002.jpg]
                            [**2107-1-31**]  08:35 AM
                            [**2107-1-31**]  01:03 PM
                            [**2107-1-31**]  01:14 PM
                            [**2107-1-31**]  02:02 PM
                            [**2107-1-31**]  02:45 PM
                            [**2107-1-31**]  07:06 PM
                            [**2107-1-31**]  08:36 PM
                            [**2107-1-31**]  10:11 PM
                            [**2107-2-1**]  01:37 AM
                            [**2107-2-1**]  06:18 AM
   WBC
   11.5
   11.6
   11.6
   Hct
   26.0
   28.1
   27.8
   25.7
   Plt
   153
   150
   156
   Cr
   2.4
   2.4
   3.1
   TropT
   0.78
   TCO2
   20
   22
   20
   19
   20
   Glucose
   261
   106
   78
   110
   160
   Other labs: PT / PTT / INR:33.8/136.9/3.5, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:4430/4777, Alk Phos / T Bili:99/1.9,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.1 g/dL, LDH:2980 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   1.       Shock: in setting of massive PE s/p lysis with significant end
   organ injury to liver and kidneys.
   Her hemodynamics have deteriorated in setting of progressive volume
   overload and likely RV dysfunction.
   We will try to get Neosynephrine off, use Levophed if HR tolerates.
   Repeat Echo to eval extent of RV overload bowing into LV and role of
   CVVH to unload RV. She is quite volume overloaded and no longer
   urinating and will likely need CVVH for volume management mainly today
   and eventual acidosis.
   2.       PE: s/p lytics, restart heparin drip, follow up Echo today for
   reasons above.
   3.       Resp Failure: on PSV - s/p intubation for profound shock and
   acidosis. Currently with sig improved dead space s/p lytics.
   4.       ARF: dense ARF in setting of severe hypoperfusion
   5.       Transaminitis: in setting of profound hypoperfusion
 LFTS
   have peaked and are trending down.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: start ube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Multi Lumen - [**2107-1-29**] 01:46 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Prophylaxis:
   DVT: hepo drip
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Comments:
   Communication:  with husband at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2107-02-02 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2107-2-1**] 10:13 AM
 DIALYSIS CATHETER - START [**2107-2-1**] 03:02 PM
   left femoral double lumen dialysis catheter placed [**2107-1-22**]
 MULTI LUMEN - START [**2107-2-1**] 05:00 PM
 MULTI LUMEN - STOP [**2107-2-1**] 08:30 PM
   - Remains on levophed and phenylephrine
   - Underwent CVVH in PM
   - D/c femoral CVL, new RIJ CVL
   - Tightened up ISS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 900 units/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-2**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.3
C (97.3
   HR: 120 (98 - 123) bpm
   BP: 118/58(76) {93/56(65) - 153/70(88)} mmHg
   RR: 19 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 66.5 kg
   Height: 62 Inch
    CVP: 19 (15 - 21)mmHg
   Total In:
                                                                  2,398 mL
                                                                  1,240 mL
   PO:
   TF:
                                                                    120 mL
                                                                    156 mL
   IVF:
                                                                  2,188 mL
                                                                    984 mL
   Blood products:
   Total out:
                                                                  1,006 mL
                                                                  1,184 mL
   Urine:
                                                                    140 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,392 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 696 (390 - 744) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.35/36/137/18/-4
   Ve: 10.5 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Intubated, Sedated, Arousable, not responding to
   commands
   Eyes / Conjunctiva: PERRL, pinpoint
   Head, Ears, Nose, Throat: Normocephalic, ET in place
   Cardiovascular: S1 S2 tachycardic, Loud P2 with RV heave
   Peripheral Vascular: Warm well perfused
   Respiratory / Chest: Clear anteriorly, coarse BS bilateral, postei
   ro-laterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended.
   Ostomy LLQ
   Extremities: 1+ edema. No c/c. DP/PT 2+
   Neurologic: Not following commands initially but was later in am.
   Labs / Radiology
   158 K/uL
   8.7 g/dL
   161 mg/dL
   2.7 mg/dL
   18 mEq/L
   4.5 mEq/L
   25 mg/dL
   108 mEq/L
   135 mEq/L
   24.9 %
   10.7 K/uL
        [image002.jpg]
                            [**2107-1-31**]  10:11 PM
                            [**2107-2-1**]  01:37 AM
                            [**2107-2-1**]  06:18 AM
                            [**2107-2-1**]  10:03 AM
                            [**2107-2-1**]  01:16 PM
                            [**2107-2-1**]  05:00 PM
                            [**2107-2-1**]  10:10 PM
                            [**2107-2-1**]  10:20 PM
                            [**2107-2-2**]  04:00 AM
                            [**2107-2-2**]  04:12 AM
   WBC
   11.6
   11.2
   10.7
   Hct
   25.7
   26.1
   24.9
   Plt
   156
   165
   158
   Cr
   3.1
   3.7
   2.7
   TCO2
   19
   20
   20
   23
   20
   21
   Glucose
   160
   166
   167
   173
   161
   Other labs: PT / PTT / INR:19.2/64.6/1.8, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:2620/966, Alk Phos / T Bili:111/3.3,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:446 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   71 year old female with DM2, HTN, GERD, admitted with b/l PE in setting
   of  having bowel resection and vaginal hysterectomy
   now s/p 1 day s/p PEA arrest.
   # s/p PEA Arrest: Etiology of arrest was likely secondary to bilateral
   PE, however was also in the setting of worsening gap metabolic acidosis
   likely secondary to both lactic acidosis and/or uremia (given pt
   essentially had GFR of 0 given no UOP). Following thrombolysis, pt able
   to be weaned from 3 pressors down to Neo and levophed.
   -          Cont to wean pressors as BP tolerated with goal SBP 90-150s.
   -          Cont to trend Lactate, Cr, LFTs, UOP as means to assess
   end-organ perfusion. Lactate and LFTs decreasing.
   -          Will likely need CVVH
   # Saddle Pulmonary Emboli: Now s/p lysis on restarted heparin gtt. Pt
   PTT remains > 60.
   -          Continue heparin gtt goal PTT 60-80
   # Acute Respiratory Failure: Was secondary to increased work of
   breathing in setting of gap metabolic acidosis and pt unable to
   compensate (pt
s HCO3  was down to 7).  Acid-Base Status now much
   improved following presumed lysis of clot and decrease in dead-space
   (given pt
s sudden pH normalization).
   -          Continue PS as tolerated
   # ARF: Likely ATN secondary to hypoperfusion and decreased forward
   flow. GFR essentially zero given increase in Cr over past day and now
   no urine output. Pt now up 13L since admission. Pt anuric with volume
   overload needs improved volume status for hemodynamics.
   -          Renal consult for CVVH
   -          f/u renal recs
   # Shock Liver: Likely secondary to hypoperfusion, improving.
   -          No interventions indicated, will continue to trend
   # Coagulopathy: INR continues to rise. Likely [**3-6**] to shock liver. No
   current indications for Vitamin K.
   -          Continue to trend
   # Troponin Bump: Likely secondary to demand ischemia in settting of
   hypotension, also increased RV strain. Now in the setting of ARF so
   will likely remain elevated.
   -          No current interventions needed
   # Hypoglycvemia: Pt had hyperglycemia so [**First Name9 (NamePattern2) 3630**] [**Male First Name (un) **] insulin gtt thwen
   with hypoglycemia likely from liver disease so changed to sliding
   scale.
   -          Insulin sliding scale.
   # Low grade fever: Pt with low grade fevers. Possible sources include
   line (fem line), urine (has foley), superimposed PNA, possible
   aspiration during arrest.
   -          check u/a and cx
   -          consider resite fem line
   -          CIS
   # FEN: Not on TFs. Will start today. Replete lytes prn and recheck in
   pm
   #PPX: Anticoagulated, PPI
   #Code: Full. Communication with husband
   1.       Shock: in setting of massive PE s/p lysis with significant end
   organ injury to liver and kidneys.
   Her hemodynamics have deteriorated in setting of progressive volume
   overload and likely RV dysfunction.
   We will try to get Neosynephrine off, use Levophed if HR tolerates.
   Repeat Echo to eval extent of RV overload bowing into LV and role of
   CVVH to unload RV. She is quite volume overloaded and no longer
   urinating and will likely need CVVH for volume management mainly today
   and eventual acidosis.
   2.       PE: s/p lytics, restart heparin drip, follow up Echo today for
   reasons above.
   3.       Resp Failure: on PSV - s/p intubation for profound shock and
   acidosis. Currently with sig improved dead space s/p lytics.
   4.       ARF: dense ARF in setting of severe hypoperfusion
   5.       Transaminitis: in setting of profound hypoperfusion
 LFTS
   have peaked and are trending down.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-2-1**] 09:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-02-02 10:55:00 Physician Attending Progress Note
Chief Complaint: massive PE, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2107-2-1**] 10:13 AM
 DIALYSIS CATHETER - START [**2107-2-1**] 03:02 PM
   left femoral double lumen dialysis catheter placed [**2107-1-22**] - started
   on CVVH
 MULTI LUMEN - START [**2107-2-1**] 05:00 PM
 MULTI LUMEN - STOP [**2107-2-1**] 08:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 900 units/hour
   Norepinephrine - 0.1 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-2**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98
   HR: 111 (98 - 123) bpm
   BP: 105/52(71) {93/52(65) - 153/70(88)} mmHg
   RR: 12 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74 kg (admission): 66.5 kg
   Height: 62 Inch
   CVP: 19 (15 - 21)mmHg
   Total In:
                                                                  2,398 mL
                                                                  1,975 mL
   PO:
   TF:
                                                                    120 mL
                                                                    283 mL
   IVF:
                                                                  2,188 mL
                                                                  1,593 mL
   Blood products:
   Total out:
                                                                  1,006 mL
                                                                  1,833 mL
   Urine:
                                                                    140 mL
                                                                     31 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,392 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 670 (436 - 744) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.36/34/169/18/-5
   Ve: 8.4 L/min
   PaO2 / FiO2: 422
   Physical Examination
   Gen: intubated and sedated
   HEENT ETT and NGT
   CV: tachy RR
   Chest: decreased BS at bases, Right IJ
   Abd: ovbese soft NT + BS stoma pink
   Ext:2+ edema
   Neuro: wakes to voice
   Labs / Radiology
   8.7 g/dL
   158 K/uL
   161 mg/dL
   2.7 mg/dL
   18 mEq/L
   4.5 mEq/L
   25 mg/dL
   108 mEq/L
   135 mEq/L
   24.9 %
   10.7 K/uL
        [image002.jpg]
                            [**2107-2-1**]  01:37 AM
                            [**2107-2-1**]  06:18 AM
                            [**2107-2-1**]  10:03 AM
                            [**2107-2-1**]  01:16 PM
                            [**2107-2-1**]  05:00 PM
                            [**2107-2-1**]  10:10 PM
                            [**2107-2-1**]  10:20 PM
                            [**2107-2-2**]  04:00 AM
                            [**2107-2-2**]  04:12 AM
                            [**2107-2-2**]  09:43 AM
   WBC
   11.6
   11.2
   10.7
   Hct
   25.7
   26.1
   24.9
   Plt
   156
   165
   158
   Cr
   3.1
   3.7
   2.7
   TCO2
   20
   20
   23
   20
   21
   20
   Glucose
   160
   166
   167
   173
   161
   Other labs: PT / PTT / INR:19.2/64.6/1.8, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:2620/966, Alk Phos / T Bili:111/3.3,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.1 g/dL, LDH:446 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   CXR: ETT 1 cm above carina, new right IJ in good position, bilat pl eff
   and mild pulm edema
   Assessment and Plan
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   1.       Shock: in setting of massive PE s/p lysis with significant end
   organ injury to liver and kidneys.
   Her hemodynamics have improved with initiation of CVVH. CVP running
   14-18. Repeat Echo showed persistent of RV overload.  bowing into LV
   and role of CVVH to unload RV.
   2.       PE: s/p lytics, restart heparin drip,
   3.       Resp Failure: on PSV - s/p intubation for profound shock and
   acidosis. Currently with sig improved dead space s/p lytics. Will try
   to wean to PSV 5/5.
   4.       ARF: dense ARF in setting of severe hypoperfusion
 using CVVH
   5.       Transaminitis: in setting of profound hypoperfusion
 LFTS
   have peaked and are trending down.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2107-2-1**] 09:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT: systemic
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with husband at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2107-02-03 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sedation d/c'd
   - Levophed Weaned
   - Seen by Nephrology
   - Seen by Gyn (signed off)
   Currently on CVVH, no pressors required, off sedation, however still
   somewhat somnolent however opens eyes to command.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cipro [**2107-2-2**]
   Infusions:
   Heparin Sodium - 900 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-2**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-3**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 101 (101 - 133) bpm
   BP: 96/52(65) {91/51(63) - 152/76(99)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.1 kg (admission): 66.5 kg
   Height: 62 Inch
    CVP: 14 (7 - 20)mmHg
   Total In:
                                                                  4,524 mL
                                                                  1,228 mL
   PO:
   TF:
                                                                    682 mL
                                                                    205 mL
   IVF:
                                                                  3,502 mL
                                                                    923 mL
   Blood products:
   Total out:
                                                                  4,828 mL
                                                                  1,474 mL
   Urine:
                                                                    112 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -304 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 603 (432 - 770) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.37/32/141/18/-5
   Ve: 12.5 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: Intubated, Sedated, arousable opens eyes to command
   Eyes / Conjunctiva: PERRL, pinpoint
   Head, Ears, Nose, Throat: Normocephalic, ET in place
   Cardiovascular: S1 S2 tachycardic, Loud P2 with RV heave
   Peripheral Vascular: Warm well perfused
   Respiratory / Chest: Clear anteriorly, coarse BS bilateral,
   posteiro-laterally
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended. Ostomy
   LLQ
   Extremities: 2+ edema. No c/c. DP/PT 2+
   Neurologic: Pt remains intubated. Opens eyes to command, however does
   not follow
   Labs / Radiology
   107 K/uL
   8.3 g/dL
   174 mg/dL
   1.8 mg/dL
   18 mEq/L
   5.0 mEq/L
   18 mg/dL
   110 mEq/L
   133 mEq/L
   24.5 %
   12.3 K/uL
        [image002.jpg]
                            [**2107-2-2**]  04:00 AM
                            [**2107-2-2**]  04:12 AM
                            [**2107-2-2**]  09:25 AM
                            [**2107-2-2**]  09:43 AM
                            [**2107-2-2**]  03:41 PM
                            [**2107-2-2**]  04:01 PM
                            [**2107-2-2**]  10:00 PM
                            [**2107-2-2**]  10:06 PM
                             [**2107-2-3**]  04:09 AM
                             [**2107-2-3**]  04:26 AM
   WBC
   10.7
   12.3
   Hct
   24.9
   24.5
   Plt
   158
   107
   Cr
   2.7
   2.2
   2.0
   1.8
   TCO2
   21
   20
   20
   20
   19
   Glucose
   161
   179
   203
   [**Telephone/Fax (3) 3670**]
   174
   Other labs: PT / PTT / INR:16.0/61.6/1.4, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:1573/283, Alk Phos / T Bili:179/3.3,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:383 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 .H/O HYPERGLYCEMIA
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   71 year old female with DM2, HTN, GERD, admitted with b/l PE in setting
   of  having bowel resection and vaginal hysterectomy
   now 4 days s/p PEA arrest with lysed saddle embolus.
   # Hemodynamics s/p PEA Arrest: Etiology of arrest was likely secondary
   to severe acidosis in setting of bilateral PE.  Currently the patient
   is not requiring any pressors to maintain adequate blood pressure.
   -          Cont to trend Lactate, Cr, LFTs, as means to assess
   end-organ perfusion. Lactate and LFTs continue to trend down.
   -          Cont CVVH as means to decrease preload burden on RV
   -          Final repeat Echo read shows persistent RV strain with RV
   dilation with abnormal septal movement, hyperdynamic LV at EF 75% with
   a mild resting LVOT obstruction and moderate pulmonary hypertension.
   # Mental status:  Patient has been off sedation for approximately 24
   hours now.  She is able to open eyes to command, however unable to
   follow other simple commands.  If she does not develop improvement in
   her mental status tomorrow, will get CT scan tomorrow.  Will check
   ammonia level today.
   # Saddle Pulmonary Emboli: Now s/p lysis on heparin gtt. Pt
s PTT
   remains > 60.
   -          Continue heparin gtt goal PTT 60-80
   # Acute Respiratory Failure: Pt is currently tolerated PSV.  Weaned off
   sedation, however patient continues to appear somnolent.  Will monitor
   respiratory status and o2 sats with reinstitution of AC ventilation as
   necessary.
   # ARF: ATN secondary to hypotensive event.  Crn much improved on CVVH,
   electrolytes within normal limits.
   -          Continue CVVH
   -          f/u renal recs
   # Shock Liver: Secondary to hypoperfusion, improving.
   -          No interventions indicated, will continue to trend
   # Coagulopathy: INR stable. Likely [**3-7**] to shock liver. No current
   indications for Vitamin K.
   -          Continue to trend
   # Troponin Bump: Likely secondary to demand ischemia in setting of
   hypotension, also increased RV strain. Now in the setting of ARF so
   will likely remain elevated.
   -          No current interventions needed
   .
   # + UA: Pt empirically started on Cipro, however urine cultures showed
   yeast only.  Will discontinue cipro at this time.  Will restart if
   develops symptoms.
   -      f/u cultures
   # Hypoglycvemia: Pt had hyperglycemia so [**First Name9 (NamePattern2) 3630**] [**Male First Name (un) **] insulin gtt thwen
   with hypoglycemia likely from liver disease so changed to sliding
   scale.
   -          Insulin sliding scale.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-2-1**] 09:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   20 Gauge - [**2107-1-29**] 01:52 PM
   16 Gauge - [**2107-1-29**] 02:00 PM
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT: Anticoagulated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Communication with husband
   [**Name (NI) 156**] status: Full code
   Disposition: MICU (Boarding in SICU)

2107-02-03 09:25:00 Physician Attending Progress Note
Chief Complaint: shock, massive PE, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Able to wean off Levophed
   Tolerating CVVH
   PSV 5/5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-2**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-3**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 101 (100 - 133) bpm
   BP: 105/54(70) {91/51(63) - 152/76(99)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.1 kg (admission): 66.5 kg
   Height: 62 Inch
   CVP: 12 (7 - 19)mmHg
   Total In:
                                                                  4,524 mL
                                                                  1,695 mL
   PO:
   TF:
                                                                    682 mL
                                                                    282 mL
   IVF:
                                                                  3,502 mL
                                                                  1,313 mL
   Blood products:
   Total out:
                                                                  4,828 mL
                                                                  2,179 mL
   Urine:
                                                                    112 mL
                                                                     43 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -304 mL
                                                                   -484 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 615 (432 - 770) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.37/32/141/18/-5
   Ve: 9.9 L/min
   PaO2 / FiO2: 353
   Physical Examination
   Gen: intubated and sedated
   HEENT ETT and NGT
   CV: tachy RR
   Chest: decreased BS at bases, Right IJ
   Abd: ovbese soft NT + BS stoma pink
   Ext:2+ edema
   Neuro: wakes to voice
   Labs / Radiology
   8.3 g/dL
   107 K/uL
   174 mg/dL
   1.8 mg/dL
   18 mEq/L
   5.0 mEq/L
   18 mg/dL
   110 mEq/L
   133 mEq/L
   24.5 %
   12.3 K/uL
        [image002.jpg]
                            [**2107-2-2**]  04:00 AM
                            [**2107-2-2**]  04:12 AM
                            [**2107-2-2**]  09:25 AM
                            [**2107-2-2**]  09:43 AM
                            [**2107-2-2**]  03:41 PM
                            [**2107-2-2**]  04:01 PM
                            [**2107-2-2**]  10:00 PM
                            [**2107-2-2**]  10:06 PM
                             [**2107-2-3**]  04:09 AM
                             [**2107-2-3**]  04:26 AM
   WBC
   10.7
   12.3
   Hct
   24.9
   24.5
   Plt
   158
   107
   Cr
   2.7
   2.2
   2.0
   1.8
   TCO2
   21
   20
   20
   20
   19
   Glucose
   161
   179
   203
   [**Telephone/Fax (3) 3670**]
   174
   Other labs: PT / PTT / INR:16.0/61.6/1.4, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:1573/283, Alk Phos / T Bili:179/3.3,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:383 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 .H/O HYPERGLYCEMIA
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   1.       Shock: in setting of massive PE s/p lysis with significant end
   organ injury to liver and kidneys.
   Her hemodynamics have improved with initiation of CVVH. CVP running
   14-18 off pressors. Goal even
   2.       PE: s/p lytics, on  heparin drip with good PTT
   3.       Resp Failure: on PSV - s/p intubation for profound shock and
   acidosis. Able to wean to PSV 5/5 and hope for extunation when mental
   status supports
   4.       ARF: dense ARF in setting of severe hypoperfusion
 using CVVH
   5.       Transaminitis: in setting of profound hypoperfusion
 LFTS
   have peaked and are trending down.
   6.       Menatl Status: stopped sedation and she is waking up slowly,
   low threshold for head CT giveb lytics and cardiac arrest to look for
   focal findings.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2107-2-3**] 01:28 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with husband
   [**Name (NI) 156**] status: Full code
   Disposition : ICU
   Total time spent: 45 minutes
   Patient is critically ill

2107-02-04 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Off pressors, BP tolerating CVVH well
   - Mental status has not changed overnight, still only opens eyes to
   commands
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-4**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 99 (99 - 131) bpm
   BP: 119/57(75) {95/53(66) - 134/113(118)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 66.5 kg
   Height: 62 Inch
    CVP: 8 (7 - 16)mmHg
   Total In:
                                                                  3,975 mL
                                                                    975 mL
   PO:
   TF:
                                                                    726 mL
                                                                    205 mL
   IVF:
                                                                  2,999 mL
                                                                    770 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,516 mL
   Urine:
                                                                    143 mL
                                                                    120 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -541 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 774 (556 - 774) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.38/34/168/18/-3
   Ve: 11 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: Intubated, Sedated, arousable opens eyes to
   command, moves hands and feet
   Eyes / Conjunctiva: PERRL, pinpoint
   Head, Ears, Nose, Throat: Normocephalic, ET in place
   Cardiovascular: S1/S2 tachycardic, + murmur
   Peripheral Vascular: Warm well perfused
   Respiratory / Chest: Clear anteriorly, moving air well, mild bibasilar
   crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended. Ostomy
   with liquid stool output
   Extremities: 2+ edema. DP/PT 2+
   Neurologic: Pt remains intubated. Opens eyes to command, follows simple
   commands
   Labs / Radiology
   87 K/uL
   8.1 g/dL
   149 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.9 mEq/L
   14 mg/dL
   110 mEq/L
   133 mEq/L
   23.4 %
   12.6 K/uL
        [image002.jpg]
                            [**2107-2-2**]  10:06 PM
                             [**2107-2-3**]  04:09 AM
                             [**2107-2-3**]  04:26 AM
                             [**2107-2-3**]  10:14 AM
                             [**2107-2-3**]  10:34 AM
                             [**2107-2-3**]  03:53 PM
                             [**2107-2-3**]  04:05 PM
                             [**2107-2-3**]  10:23 PM
                             [**2107-2-4**]  04:10 AM
                             [**2107-2-4**]  04:23 AM
   WBC
   12.3
   13.4
   12.6
   Hct
   24.5
   24.5
   23.4
   Plt
   107
   104
   87
   Cr
   1.8
   1.7
   1.7
   1.5
   TCO2
   20
   19
   20
   20
   20
   21
   Glucose
   [**Telephone/Fax (3) 3694**]65
   156
   146
   154
   159
   149
   Other labs: PT / PTT / INR:14.6/60.1/1.3, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:939/141, Alk Phos / T Bili:170/2.1,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
   71 year old female with DM2, HTN, GERD, admitted with b/l PE in setting
   of  having bowel resection and vaginal hysterectomy
   now 4 days s/p PEA arrest with lysed saddle embolus.
   .
   # Acute Respiratory Failure: Pt is currently tolerated PSV.  Weaned off
   sedation, however patient continues to appear somnolent.  Will monitor
   respiratory status and o2 sats.  Currently on PSV at 5/5.
   - SBT, holding TFs
   - possible extubation if ABG is favorable
   .
    #Hemodynamics s/p PEA Arrest: Etiology of arrest was likely secondary
   to severe acidosis in setting of bilateral PE.  Currently the patient
   is not requiring any pressors to maintain adequate blood pressure.
   - Cont to trend Lactate, Cr, LFTs, as means to assess end-organ
   perfusion. Lactate and LFTs continue to trend down.
   - Cont CVVH as means to decrease preload burden on RV
   - Final repeat Echo read shows persistent RV strain with RV dilation
   with abnormal septal movement, hyperdynamic LV at EF 75% with a mild
   resting LVOT obstruction and moderate pulmonary hypertension.
   .
   # Mental status:  Patient has been off sedation for approximately 24
   hours now.  She is able to open eyes to command, however unable to
   follow other simple commands.  If she does not develop improvement in
   her mental status tomorrow, will get CT scan tomorrow.  Will check
   ammonia level today.
   # Saddle Pulmonary Emboli: Now s/p lysis on heparin gtt. Pt
s PTT
   remains > 60.
   - Continue heparin gtt goal PTT 60-80
   .
   # ARF: ATN secondary to hypotensive event.  Crn much improved on CVVH,
   electrolytes within normal limits.
   - Continue CVVH
   - f/u renal recs
 will find out when/if renal will transition to HD
   .
   # Thrombocytopenia: Platelets trending down since admission.  On
   heparin with PE and on on PPI all of which can cause thrombocytopenia
   - PM CBC
   - will add Hep dep Abs if platelets trend down further
   .
   # Shock Liver/ Coagulopathy: Secondary to hypoperfusion, improving.
   - No interventions indicated, will continue to trend
   .
   # Troponin Bump: Likely secondary to demand ischemia in setting of
   hypotension, also increased RV strain. Now in the setting of ARF so
   will likely remain elevated.
   - No current interventions needed
   .
   # + UA: Pt empirically started on Cipro, however urine cultures showed
   yeast only.  Will discontinue cipro at this time.  Will restart if
   develops symptoms.  Resolved for now.
   .
   # Hypoglycvemia: Pt had hyperglycemia so started on insulin gtt
   transitioned to insulin sliding scale.
   - ISS, monitor FSBG
   .
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-2-4**] 03:50 AM 30.[**Telephone/Fax (3) 3695**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-02-04 08:28:00 Physician Attending Progress Note
Chief Complaint: resp failure, PE s/p lytics
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Off pressors
   - MAP running 80
    - Off sedation, wiggling toes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-4**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 101 (99 - 131) bpm
   BP: 122/58(77) {95/53(66) - 134/113(118)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.6 kg (admission): 66.5 kg
   Height: 62 Inch
   CVP: 8 (7 - 14)mmHg
   Total In:
                                                                  3,975 mL
                                                                  1,163 mL
   PO:
   TF:
                                                                    726 mL
                                                                    252 mL
   IVF:
                                                                  2,999 mL
                                                                    912 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,749 mL
   Urine:
                                                                    143 mL
                                                                    120 mL
   NG:
   Stool:
                                                                    150 mL
                                                                    730 mL
   Drains:
   Balance:
                                                                   -275 mL
                                                                   -586 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 665 (556 - 774) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.38/34/168/18/-3
   Ve: 11.8 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Gen: intubated
   HEENT ETT and NGT
   CV: tachy RR
   Chest: decreased BS at bases, Right IJ
   Abd: ovbese soft NT + BS stoma pink
   Ext:2+ edema
   Neuro: wakes to voice, answering yes no questions in Spanish
   Labs / Radiology
   8.1 g/dL
   87 K/uL
   149 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.9 mEq/L
   14 mg/dL
   110 mEq/L
   133 mEq/L
   23.4 %
   12.6 K/uL
        [image002.jpg]
                            [**2107-2-2**]  10:06 PM
                             [**2107-2-3**]  04:09 AM
                             [**2107-2-3**]  04:26 AM
                             [**2107-2-3**]  10:14 AM
                             [**2107-2-3**]  10:34 AM
                             [**2107-2-3**]  03:53 PM
                             [**2107-2-3**]  04:05 PM
                             [**2107-2-3**]  10:23 PM
                             [**2107-2-4**]  04:10 AM
                             [**2107-2-4**]  04:23 AM
   WBC
   12.3
   13.4
   12.6
   Hct
   24.5
   24.5
   23.4
   Plt
   107
   104
   87
   Cr
   1.8
   1.7
   1.7
   1.5
   TCO2
   20
   19
   20
   20
   20
   21
   Glucose
   [**Telephone/Fax (3) 3694**]65
   156
   146
   154
   159
   149
   Other labs: PT / PTT / INR:14.6/60.1/1.3, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:939/141, Alk Phos / T Bili:170/2.1,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   1.       Shock: in setting of massive PE s/p lysis with significant end
   organ injury to liver and kidneys.
   Her hemodynamics have improved with initiation of CVVH. CVP running
   14-18 off pressors. Goal even to 500 neg
   2.       PE: s/p lytics, on  heparin drip with good PTT
   3.       Resp Failure: on PSV - s/p intubation for profound shock and
   acidosis. Able to wean to PSV 5/5 and hope for extubation  this AM
   4.       ARF: dense ARF in setting of severe hypoperfusion
 using CVVH
   5.       Transaminitis: in setting of profound hypoperfusion
 LFTS
   have peaked and are trending down.
   5.       Thrombocytopenia: DDX consumptive, meds, less likely HIT.
   6.      Persistent HypoPhos: replete IV and po today repeat level in 6
   hours.
   6.       Mental Status: stopped sedation and she is waking up slowly,
   low threshold for head CT given lytics and cardiac arrest to look for
   focal findings.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-2-4**] 03:50 AM 30.[**Telephone/Fax (3) 3695**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT: systemic heparin
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Comments:
   Communication:   with husband
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2107-02-05 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-2-4**] 03:53 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Fentanyl - [**2107-2-5**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-5**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.1
   HR: 107 (93 - 120) bpm
   BP: 142/69(95) {117/56(77) - 143/70(95)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.6 kg (admission): 66.5 kg
   Height: 62 Inch
    CVP: 9 (3 - 9)mmHg
   Total In:
                                                                  2,970 mL
                                                                    894 mL
   PO:
   TF:
                                                                    271 mL
                                                                    227 mL
   IVF:
                                                                  2,698 mL
                                                                    667 mL
   Blood products:
   Total out:
                                                                  4,286 mL
                                                                  1,254 mL
   Urine:
                                                                    258 mL
                                                                     80 mL
   NG:
   Stool:
                                                                    780 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,316 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (720 - 720) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 4%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.38/32/139/18/-4
   Ve: 14.5 L/min
   PaO2 / FiO2: 3,475
   Physical Examination
   General Appearance: Intubated, Sedated, arousable opens eyes to
   command, moves hands and feet
   Eyes / Conjunctiva: PERRL, pinpoint
   Head, Ears, Nose, Throat: Normocephalic, ET in place
   Cardiovascular: S1/S2 tachycardic, + murmur
   Peripheral Vascular: Warm well perfused
   Respiratory / Chest: Clear anteriorly, moving air well, mild bibasilar
   crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended. Ostomy
   with liquid stool output
   Extremities: 2+ edema. DP/PT 2+
   Neurologic: Pt remains intubated. Opens eyes to command, follows simple
   commands
   Labs / Radiology
   83 K/uL
   8.2 g/dL
   167 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.6 mEq/L
   13 mg/dL
   109 mEq/L
   133 mEq/L
   24.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2107-2-4**]  04:10 AM
                             [**2107-2-4**]  04:23 AM
                             [**2107-2-4**]  10:39 AM
                             [**2107-2-4**]  01:56 PM
                             [**2107-2-4**]  02:24 PM
                             [**2107-2-4**]  04:58 PM
                             [**2107-2-4**]  10:19 PM
                             [**2107-2-4**]  10:25 PM
                             [**2107-2-5**]  04:12 AM
                             [**2107-2-5**]  04:32 AM
   WBC
   12.6
   12.0
   12.3
   Hct
   23.4
   24.6
   24.2
   Plt
   87
   79
   83
   Cr
   1.5
   1.5
   1.4
   1.3
   TCO2
   21
   20
   18
   19
   20
   20
   Glucose
   159
   149
   87
   136
   126
   173
   167
   Other labs: PT / PTT / INR:14.1/80.5/1.2, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:939/141, Alk Phos / T Bili:170/2.1,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   71 year old female with DM2, HTN, GERD, admitted with b/l PE in setting
   of  having bowel resection and vaginal hysterectomy
   now 4 days s/p PEA arrest with lysed saddle embolus.
   .
   # Acute Respiratory Failure: Pt is currently tolerated PSV.  Weaned off
   sedation, however patient continues to appear somnolent.  Will monitor
   respiratory status and o2 sats.  Currently on PSV at 5/5.
   - SBT, holding TFs
   - possible extubation if ABG is favorable
   .
    #Hemodynamics s/p PEA Arrest: Etiology of arrest was likely secondary
   to severe acidosis in setting of bilateral PE.  Currently the patient
   is not requiring any pressors to maintain adequate blood pressure.
   - Cont to trend Lactate, Cr, LFTs, as means to assess end-organ
   perfusion. Lactate and LFTs continue to trend down.
   - Cont CVVH as means to decrease preload burden on RV
   - Final repeat Echo read shows persistent RV strain with RV dilation
   with abnormal septal movement, hyperdynamic LV at EF 75% with a mild
   resting LVOT obstruction and moderate pulmonary hypertension.
   .
   # Mental status:  Patient has been off sedation for approximately 24
   hours now.  She is able to open eyes to command, however unable to
   follow other simple commands.  If she does not develop improvement in
   her mental status tomorrow, will get CT scan tomorrow.  Will check
   ammonia level today.
   # Saddle Pulmonary Emboli: Now s/p lysis on heparin gtt. Pt
s PTT
   remains > 60.
   - Continue heparin gtt goal PTT 60-80
   .
   # ARF: ATN secondary to hypotensive event.  Crn much improved on CVVH,
   electrolytes within normal limits.
   - Continue CVVH
   - f/u renal recs
 will find out when/if renal will transition to HD
   .
   # Thrombocytopenia: Platelets trending down since admission.  On
   heparin with PE and on on PPI all of which can cause thrombocytopenia
   - PM CBC
   - will add Hep dep Abs if platelets trend down further
   .
   # Shock Liver/ Coagulopathy: Secondary to hypoperfusion, improving.
   - No interventions indicated, will continue to trend
   .
   # Troponin Bump: Likely secondary to demand ischemia in setting of
   hypotension, also increased RV strain. Now in the setting of ARF so
   will likely remain elevated.
   - No current interventions needed
   .
   # + UA: Pt empirically started on Cipro, however urine cultures showed
   yeast only.  Will discontinue cipro at this time.  Will restart if
   develops symptoms.  Resolved for now.
   .
   # Hypoglycvemia: Pt had hyperglycemia so started on insulin gtt
   transitioned to insulin sliding scale.
   - ISS, monitor FSBG
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-2-4**] 11:00 PM 30.[**Telephone/Fax (5) 3729**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-02-05 11:27:00 Physician Attending Progress Note
Chief Complaint: PE, resolving shock,
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2107-2-4**] 03:53 PM
   Successfully extubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Heparin Sodium - 1,050 units/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2107-2-5**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-5**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 97 (93 - 120) bpm
   BP: 148/66(94) {117/56(77) - 148/70(97)} mmHg
   RR: 16 (14 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.6 kg (admission): 66.5 kg
   Height: 62 Inch
   CVP: 5 (3 - 9)mmHg
   Total In:
                                                                  2,970 mL
                                                                  1,425 mL
   PO:
   TF:
                                                                    271 mL
                                                                    344 mL
   IVF:
                                                                  2,698 mL
                                                                  1,021 mL
   Blood products:
   Total out:
                                                                  4,286 mL
                                                                  2,002 mL
   Urine:
                                                                    258 mL
                                                                    140 mL
   NG:
   Stool:
                                                                    780 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,316 mL
                                                                   -577 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.39/32/131/18/-4
   PaO2 / FiO2: 3,275
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   87 K/uL
   130 mg/dL
   1.4 mg/dL
   18 mEq/L
   4.5 mEq/L
   13 mg/dL
   110 mEq/L
   134 mEq/L
   23.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2107-2-4**]  10:39 AM
                             [**2107-2-4**]  01:56 PM
                             [**2107-2-4**]  02:24 PM
                             [**2107-2-4**]  04:58 PM
                             [**2107-2-4**]  10:19 PM
                             [**2107-2-4**]  10:25 PM
                             [**2107-2-5**]  04:12 AM
                             [**2107-2-5**]  04:32 AM
                             [**2107-2-5**]  10:25 AM
                             [**2107-2-5**]  10:28 AM
   WBC
   12.0
   12.3
   12.2
   Hct
   24.6
   24.2
   23.6
   Plt
   79
   83
   87
   Cr
   1.5
   1.4
   1.3
   1.4
   TCO2
   20
   18
   19
   20
   20
   20
   Glucose
   87
   136
   126
   173
   167
   133
   130
   Other labs: PT / PTT / INR:13.8/68.5/1.2, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:939/141, Alk Phos / T Bili:170/2.1,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   1.       PE: s/p lytics, on  heparin drip with good PTT, hemodynamics
   resolved.
   3.       Resp Failure: resolved tolerated extubation well
 wean FIO2
   4.       ARF: dense ARF in setting of severe hypoperfusion
 using CVVH
 switch to hemo today. Goal 1 liter neg per day
   5.       Transaminitis: in setting of profound hypoperfusion
 LFTS
   have peaked and are trending down.
   5.       Thrombocytopenia: DDX consumptive, meds, less likely HIT.
   6.      Persistent HypoPhos: replete IV and po today repeat level in 6
   hours.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2107-2-5**] 08:36 AM 30.[**Telephone/Fax (5) 3729**]
   mL/hour
   Get speech and swallow and dc NGT if able
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-1-29**] 01:45 PM
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT: sys heparin
   Stress ulcer: ppi
   Communication:  with husband
   [**Name (NI) 156**] status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   Exam
   Addendum
   Lying in bed, NAD
   NTG, o/p dry
   RR
   Decreased BS bases
   Abd oft ostomy pink =output
   Ext: min edema
   Neuro: answering ?s from husband follwing commands but still somnelent
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 202**], MD
   on:[**2107-2-5**] 17:32 ------

2107-02-06 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-2-5**] 01:31 PM
 EKG - At [**2107-2-6**] 12:06 AM
   - Continue CVVH, no remove of NG tube due to sedation (likely to fail
   s/s study).
   - A line removed
   - NaPhos repleted
   - Paroxysm of Afib (on EKG) rate/rhythm controlled with Lopressor 5mg,
   TSH ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   Other ICU medications:
   Metoprolol - [**2107-2-6**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-6**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 83 (83 - 132) bpm
   BP: 108/70(83) {105/53(72) - 168/112(121)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.6 kg (admission): 66.5 kg
   Height: 62 Inch
    CVP: 9 (0 - 233)mmHg
   Total In:
                                                                  3,236 mL
                                                                    807 mL
   PO:
   TF:
                                                                    728 mL
                                                                    223 mL
   IVF:
                                                                  2,448 mL
                                                                    584 mL
   Blood products:
   Total out:
                                                                  4,470 mL
                                                                  1,464 mL
   Urine:
                                                                    195 mL
                                                                    130 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,234 mL
                                                                   -657 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.39/32/131/20/-4
   Physical Examination
   General Appearance: AAO
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1/S2 tachycardic, + murmur
   Peripheral Vascular: Warm well perfused
   Respiratory / Chest: Clear anteriorly, moving air well, mild bibasilar
   crackles
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended. Ostomy
   with liquid stool output
   Extremities: 2+ edema. DP/PT 2+
   Neurologic: Awake and alert, varying levels of interactivity
   Labs / Radiology
   98 K/uL
   8.2 g/dL
   144 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.5 mEq/L
   13 mg/dL
   109 mEq/L
   134 mEq/L
   24.7 %
   11.5 K/uL
        [image002.jpg]
   Micro: None
   No CXR today
                             [**2107-2-5**]  04:12 AM
                             [**2107-2-5**]  04:32 AM
                             [**2107-2-5**]  10:25 AM
                             [**2107-2-5**]  10:28 AM
                             [**2107-2-5**]  04:27 PM
                             [**2107-2-5**]  04:30 PM
                             [**2107-2-5**]  09:49 PM
                             [**2107-2-5**]  10:03 PM
                             [**2107-2-6**]  03:40 AM
                             [**2107-2-6**]  04:00 AM
   WBC
   12.3
   12.2
   11.5
   Hct
   24.2
   23.6
   24.7
   Plt
   83
   87
   98
   Cr
   1.3
   1.4
   1.4
   1.4
   TCO2
   20
   20
   Glucose
   173
   167
   133
   130
   138
   95
   119
   111
   155
   144
   Other labs: PT / PTT / INR:13.5/79.0/1.2, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:471/74, Alk Phos / T Bili:173/1.3,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   71 year old female with DM2, HTN, GERD, admitted with b/l PE in setting
   of  having bowel resection and vaginal hysterectomy
   now 4 days s/p PEA arrest with lysed saddle embolus.
   .
   # Acute Respiratory Failure: Intially on resp support -> weaned off
   sedation, more alert this AM.  On NC 4L
   - NGT
 speech and swallow today
   - monitor progress
   .
    #Hemodynamics s/p PEA Arrest: Etiology of arrest was likely secondary
   to severe acidosis in setting of bilateral PE.  Currently the patient
   is not requiring any pressors to maintain adequate blood pressure.
   - Cont to trend Lactate, Cr, LFTs, as means to assess end-organ
   perfusion. Lactate and LFTs continue to trend down.
   - Cont CVVH as means to decrease preload burden on RV
   - Final repeat Echo read shows persistent RV strain with RV dilation
   with abnormal septal movement, hyperdynamic LV at EF 75% with a mild
   resting LVOT obstruction and moderate pulmonary hypertension.
   .
   # Mental status:  Patient has been off sedation for approximately 24
   hours now.  She is able to open eyes to command, however unable to
   follow other simple commands.  If she does not develop improvement in
   her mental status tomorrow, will get CT scan tomorrow.  Will check
   ammonia level today.
   # Saddle Pulmonary Emboli: Now s/p lysis on heparin gtt. Pt
s PTT
   remains > 60.
   - Continue heparin gtt goal PTT 60-80
   .
   # ARF: ATN secondary to hypotensive event.  Crn much improved on CVVH,
   electrolytes within normal limits.
   - Continue CVVH
   - f/u renal recs
 transition to HD likely Monday [**2107-2-7**]
   .
   # Thrombocytopenia: Platelets trending down since admission.  On
   heparin with PE and on on PPI all of which can cause thrombocytopenia.
   - likely HIT Type 1
   - cont to trend platelets
   - will add Hep dep Abs if platelets trend down further dramatically
   .
   # Shock Liver/ Coagulopathy: Secondary to hypoperfusion, improving.
   - No interventions indicated, will continue to trend
   - AM LFTs/INR
   .
   # Troponin Bump: Likely secondary to demand ischemia in setting of
   hypotension, also increased RV strain. Now in the setting of ARF so
   will likely remain elevated.
   - No current interventions needed
   .
   # + UA: Pt empirically started on Cipro, however urine cultures showed
   yeast only.  Will discontinue cipro at this time.  Will restart if
   develops symptoms.  Resolved.
   .
   # Hypoglycemia: Resolved.  Pt now with hyperglycemia started on insulin
   gtt
 transitioned to insulin sliding scale.
   - ISS, monitor FSBG
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-2-5**] 09:44 PM 30.[**Telephone/Fax (5) 3729**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-02-06 10:11:00 Physician Attending Progress Note
Chief Complaint: PEA arrest, PE, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-2-5**] 01:31 PM
 EKG - At [**2107-2-6**] 12:06 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Heparin Sodium - 1,050 units/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   Other ICU medications:
   Metoprolol - [**2107-2-6**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-6**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 95 (83 - 132) bpm
   BP: 128/71(85) {105/53(72) - 168/112(121)} mmHg
   RR: 20 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.6 kg (admission): 66.5 kg
   Height: 62 Inch
   CVP: 12 (0 - 233)mmHg
   Total In:
                                                                  3,236 mL
                                                                  1,274 mL
   PO:
   TF:
                                                                    728 mL
                                                                    307 mL
   IVF:
                                                                  2,448 mL
                                                                    967 mL
   Blood products:
   Total out:
                                                                  4,470 mL
                                                                  1,826 mL
   Urine:
                                                                    195 mL
                                                                    160 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,234 mL
                                                                   -552 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.39/32/131/20/-4
   Physical Examination
   Lying in bed, NAD
   NTG, o/p dry
   RR
   Decreased BS bases
   Abd soft ostomy pink green output
   Ext: min edema
   Neuro: answering ?s from husband following commands but still somnelent
   Labs / Radiology
   8.2 g/dL
   98 K/uL
   144 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.5 mEq/L
   13 mg/dL
   109 mEq/L
   134 mEq/L
   24.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2107-2-5**]  04:12 AM
                             [**2107-2-5**]  04:32 AM
                             [**2107-2-5**]  10:25 AM
                             [**2107-2-5**]  10:28 AM
                             [**2107-2-5**]  04:27 PM
                             [**2107-2-5**]  04:30 PM
                             [**2107-2-5**]  09:49 PM
                             [**2107-2-5**]  10:03 PM
                             [**2107-2-6**]  03:40 AM
                             [**2107-2-6**]  04:00 AM
   WBC
   12.3
   12.2
   11.5
   Hct
   24.2
   23.6
   24.7
   Plt
   83
   87
   98
   Cr
   1.3
   1.4
   1.4
   1.4
   TCO2
   20
   20
   Glucose
   173
   167
   133
   130
   138
   95
   119
   111
   155
   144
   Other labs: PT / PTT / INR:13.5/79.0/1.2, CK / CKMB /
   Troponin-T:758/12/0.78, ALT / AST:471/74, Alk Phos / T Bili:173/1.3,
   Differential-Neuts:85.1 %, Lymph:10.1 %, Mono:4.2 %, Eos:0.3 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 ACIDOSIS, METABOLIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CARDIAC ARREST
 PULMONARY EMBOLISM (PE), ACUTE
 CHEST PAIN
   1.       PE: s/p lytics, on  heparin drip with good PTT, hemodynamics
   resolved.
   3.       Resp Failure: resolved tolerated extubation well
 wean FIO2
   4.       ARF: dense ARF in setting of severe hypoperfusion
 using CVVH
 switch to hemo today. Goal 1 liter neg per day
   5.       Transaminitis: in setting of profound hypoperfusion
 LFTS
   have peaked and are trending down.
   5.       Thrombocytopenia: DDX consumptive, meds, less likely HIT.
   6.      Persistent HypoPhos: replete IV and po today repeat level in 6
   hours.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2107-2-5**] 09:44 PM 30.[**Telephone/Fax (5) 3729**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2107-2-1**] 03:02 PM
   Multi Lumen - [**2107-2-1**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: